US20010027196A1
2-Amino-4-furan-2-yl-pyrimidine-5-carbonitrile
From 2-furoylacetonitrile and N,N-dimethylformamide dimethyl acetal. Then treatment with guanidine carbonate and sodium methylate in methanol. EI-MS m/e (%): 186 (M+, 100).

reactant | 2-furoylacetonitrile | O1C(=CC=C1)C(=O)CC#N | C7H5NO2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-Amino-4-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC=C(C(=N1)C=1OC=CC1)C#N | C9H6N4O
